US20010027196A1
2-Amino-4-furan-2-yl-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and 1-phenylpiperazine in DME. ES-MS m/e (%): 347 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)N1CCN(CC1)C1=CC=CC=C1 | C19H18N6O
